US09278983B2
A mixture of 2-(3-chloro-2-ethylsulfinylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.48 g) and acetic acid (12 ml) was stirred with heating at 80° C., and then 30% of an aqueous solution of hydrogen peroxide (6 ml) was added dropwise. The mixture was heated to 100° C., and stirred with heating for 3 hours. Into the reaction mixture cooled to room temperature, water was poured, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.21 g of 2-(3-chloro-2-ethylsulfonylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 90).

reactant | 2-(3-chloro-2-ethylsulfinylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.48 g | ClC=1C(=C(C=CC1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C)S(=O)CC | C16H13ClF3N3OS
reactant | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 6 ml | OO | H2O2
solvent | water | O | H2O
product | 2-(3-chloro-2-ethylsulfonylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.21 g | ClC=1C(=C(C=CC1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C)S(=O)(=O)CC | C16H13ClF3N3O2S
